US07786132B2
(i) N-(4-Fluorophenyl)-N-[2-(pyrrolidin-1-yl)ethyl]thiazol-2-amine
A solution of 1.0 g (5.2 mmol) of N-(4-fluorophenyl)thiazol-2-amine in 25 mL of THF was treated with 10.3 mL (10.3 mmol) of a 1.0 M solution of NaHMDS in THF and 0.88 g (5.2 mmol) of 1-(2-chloroethyl)pyrrolidine hydrochloride and heated at reflux for 18 h. The reaction mixture was poured into 250 mL of EtOAc and extracted thrice with 1 M aqueous HCl. The combined acidic extracts were brought to pH 12 with a 10% (w/v) solution of Na2CO3 and extracted five times with CHCl3. The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo, and the crude product was purified by flash chromatography eluting with a linear gradient of neat EtOAc to 20% MeOH in EtOAc to deliver the desired compound. MS (M+H)+ 292.

reactant | N-(4-fluorophenyl)thiazol-2-amine | 5.2 mmol, 1.0 g | FC1=CC=C(C=C1)NC=1SC=CN1 | C9H7FN2S
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 5.2 mmol, 0.88 g | Cl.ClCCN1CCCC1
reactant | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-(4-Fluorophenyl)-N-[2-(pyrrolidin-1-yl)ethyl]thiazol-2-amine | FC1=CC=C(C=C1)N(C=1SC=CN1)CCN1CCCC1 | C15H18FN3S
